US07687510B2
Ethyl 6-methyl-4-(3-nitrophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetra-hydro-5-pyrimidinecarboxylate
30.6 mg (0.15 mmol) N-[3-(trifluoromethyl)phenyl]urea are shaken together with 45.3 mg (0.3 mmol) 3-nitrobenzaldehyde, 39 mg (0.3 mmol) ethyl 3-oxobutanoate and 90 mg polyphosphoric acid ethyl ester [freshly prepared according to the procedure of Cava et al., J. Org. Chem. 34, 2665 (1969)] in 0.5 ml dioxan and 0.1 ml DMF at 80° C. for 18 hours. After adding 200 μl DMF, the reaction mixture is filtered and purified by preparative HPLC (column: Nucleosil 100-5 C 18 Nautilus 20 mm×50 mm, 5 μm; solvent A: acetonitrile, solvent B: water+0.1% formic acid; gradient: 0 min 10% A, 2 min 10% A, 6 min 90% A, 7 min 90% A, 7.1 min 10% A, 8 min 10% A; flow rate 25 ml/min; wavelength: 220 nm; injection volume: approx. 800 μl; number of injections: 1). The product containing fractions are combined and concentrated in vacuo.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 0.15 mmol, 30.6 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 3-nitrobenzaldehyde | 0.3 mmol, 45.3 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl 3-oxobutanoate | 0.3 mmol, 39 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | DMF | 200 μl | CN(C)C=O | C3H7NO
solvent | dioxan | 0.5 ml | O1CCOCC1 | C4H8O2
product | Ethyl 6-methyl-4-(3-nitrophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetra-hydro-5-pyrimidinecarboxylate | CC1=C(C(NC(N1C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C21H18F3N3O5
